US05750665
Preparation of Phenyl 3,4,6-tri-O-acetyl-2-deoxy-2-phthalimido-1-thio-β-D-glucopyranoside
3.82 g (0.008 Mol) of 1,3,4,6-tetra-O-acetyl-2-deoxy-2-phthalimido-β-D-glucopyranose was dissolved in 80 ml of anhydrous dichloromethane and stirred at 0° C. under an atmosphere of nitrogen. To this solution, 4.0 ml (0.032 Mol) of boron trifluoride diethyl etherate was slowly added. This was followed by 2.2 ml (0.021 Mol) of thiophenol. The resulting solution was stirred at 0° C. for 4 hr. and at RT for 2 hr. and then poured into a mixture of ethyl acetate (500 ml) and ice-cold saturated sodium bicarbonate solution (200 ml).

reactant | 1,3,4,6-tetra-O-acetyl-2-deoxy-2-phthalimido-β-D-glucopyranose | 0.008 Mol, 3.82 g | C(C)(=O)O[C@H]1[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C22H23NO11
reactant | boron trifluoride diethyl etherate | 0.032 Mol, 4.0 ml | B(F)(F)F.CCOCC
reactant | thiophenol | 0.021 Mol, 2.2 ml | C1(=CC=CC=C1)S | C6H6S
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | Phenyl 3,4,6-tri-O-acetyl-2-deoxy-2-phthalimido-1-thio-β-D-glucopyranoside | C(C)(=O)O[C@@H]1[C@H]([C@H](SC2=CC=CC=C2)O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C26H25NO9S
